US04010184
To a solution of 19.3 g of 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine in 150 ml of tetrahydrofuran is added dropwise a solution of 10.8 g of 1-piperidinecarboxylic acid chloride in 30 ml of tetrahydrofuran with stirring. The whole solution is stirred under reflux for four and half hours. After cooling, the reaction mixture is transferred to water and extracted with ethyl acetate. After the extract is washed with water and dried over anhydrous magnesium sulfate, the solvent is evaporated under reduced pressure. The residue is treated with ethanolic hydrogen chloride to give 5-o-chlorophenyl-7-ethyl-1-piperidinocarbonyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride as yellow crystals. This product, when recrystallized from a mixture of methanol and ethyl acetate, melts at 237°-238° C with decomposition.

reactant | 5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | 19.3 g | ClC1=C(C=CC=C1)C=1C2=C(NCCN1)SC(=C2)CC | C15H15ClN2S
reactant | 1-piperidinecarboxylic acid chloride | 10.8 g | N1(CCCCC1)C(=O)Cl | C6H10ClNO
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-o-chlorophenyl-7-ethyl-1-piperidinocarbonyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | Cl.ClC1=C(C=CC=C1)C=1C2=C(N(CCN1)C(=O)N1CCCCC1)SC(=C2)CC | InChI=1S/C21H24ClN3OS.ClH/c1-2-15-14-17-19(16-8-4-5-9-18(16)22)23-10-13-25(20(17)27-15)21(26)24-11-6-3-7-12-24;/h4-5,8-9,14H,2-3,6-7,10-13H2,1H3;1H
